US06060462
N-methyl-N-[2-(methylphenyl)benzoyl]glycine ethyl ester (4.5 g, 14.45 mmol) and KOH (2.43 g, 43.4 mmol) in MeOH/H2O (200 mL/50 mL) were heated at reflux for 45 minutes. The solvent was removed and the residue dissolved in H2O. The aqueous solution was washed with Et2O and acidified with HCl (10%). The acidified aqueous layer was extracted with EtOAc, the EtOAc extract was washed with brine (2×), dried over (MgSO4) and evaporated. There was obtained N-methyl-N-[2-(methylphenyl)benzoyl]glycine (2.0 g); LRMS (M+H)+=284.1, (M+NH4)+=301.1

reactant | N-methyl-N-[2-(methylphenyl)benzoyl]glycine ethyl ester | 14.45 mmol, 4.5 g | C(C)OC(CN(C(C1=C(C=CC=C1)C1=C(C=CC=C1)C)=O)C)=O | C19H21NO3
reactant | KOH | 43.4 mmol, 2.43 g | [OH-].[K+]
solvent | MeOH H2O | 200 mL | CO.O
product | N-methyl-N-[2-(methylphenyl)benzoyl]glycine | 2.0 g | CN(CC(=O)O)C(C1=C(C=CC=C1)C1=C(C=CC=C1)C)=O | C17H17NO3
